Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
I have been overwhelmed and I felt suicidal."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI:  Mr. ___ is a ___ yo ___ freshman at ___ (___) c h/o depressed mood and anxiety symptoms
(panic) who was sent to ___ at recommendation of ___, his
therapist of 4 months at ___ for evaluation of 3 weeks of
worsening depression with anhedonia, social isolation &
withdrawal, escalating feelings of guilt, poor sleep secondary 
to
ruminations of guilt.  Patient is also having trouble
concentrating and going to his other classes because of his
depression and anxiety.  He has been eating fine and taking care
of himself w/r/t hygiene.  Mr. ___ reported that what seems
have caused his recent bout of anxiety is the culmination of
stress in a professional relationship with one of his teachers 
at
his program.  For reasons that are not completely clear, patient
was removed from a studio class with a particular instructor. 
Patient referred me to speak with ___ to explain the 
specifics,
but ___ was not available and patient felt too
overwhelmed to give me the story in detail--in fact had a panic
attack during our talk.  For the past weeks, since being removed
from the class, Mr. ___ has written letters, called (did 
not
leave messages) and emailed this instructor w/o getting any
response.  The lack of response has caused an escalating pattern
of guilt that Mr. ___ has been dealing with by cutting
himself with a knife (cut left wrist, no stitches).  Last night,
in the context of this guilt, not sleeping and having more
anxiety, Mr. ___ began feeling suicidal and developed a 
plan
to kill himself by cutting himself with a knife.  He decided 
that
the only way he could deal with his overwhelming feelings would
be suicide.  Mr. ___ told his counselor about these 
thoughts
and his counselor recommended that he come to the ED.  

Mr. ___ reported that he has felt "highs," but never for
more than a day and never impacting sleep or resulting in
dramatically impaired decision-making (e.g., spending too much,
indiscriminate sexual relationships, etc).  Mr. ___ has no
h/o ___ psychotic symptoms, although his level of guilt has
reached a near psychotic proportion.  Mr. ___ denied ever
being asked by the instructor never to contact him, but he feels
the instructor not answering his calls or responding to emails
means that the instructor does not like him.  He denied any
thoughts of trying to harm the instructor.  

Mr. ___ reported feeling anxious a great deal, having a 
rare
panic attack. 

 
Past Medical History:
PAST PSYCH HX:  No previous medication trials or psychiatric
hospitalizations.  One previous episode of being kept in a
psychiatric ED in ___ in the context of having chest
pain which turned out to be a panic attack.  Gets occasional
panic attacks (although not frequently enough to make a 
diagnosis
of panic d/o).  Has been seeing a counselor ___ at ___ x 4
months.  Prior to 3 weeks ago, no h/o self-injurious behaviors,
although has had suicidal ideation in the past (once or twice
prior to last night, but never with intent like now).  Saw a
counselor in high school to help with "coping" with feeling
different in school.

Mr. ___ reported that he had thoughts of fighting with a
fellow student a few months ago, which is why he started in
counseling (he said he did not want to get into details re. that
situation). He said that ultimately he was able to come to terms
with this person w/o fighting.  He denied any h/o violent
behavior.

PMH:  Essentially healthy young man.  Had repair of meniscus of
left knee several months ago secondary to injury while running. 
No other surgeries.

 
Social History:
___
SOCIAL/FAMILY HX:  Only child born to now divorced parents. 
Parents separated when patient was ___.  Raised by mother in
___, but also has a relationship with father.  Father
struggled with active alcohol dependence for many years, but is
now sober.  Patient denied any h/o physical or sexual abuse 
while
growing up.  Described feeling "different" and having trouble
fitting in, but could not give more details.  Had some 
behavioral
troubles in school as a child, was suspended at least 3 times in
high school, struggled academically, but did graduate.  
Currently
a freshman at ___ with an area of concentration in the clarinet,
but having a difficult time as above.  Mr. ___ lives alone
in student housing.  No current romantic relationships, has 
dated
a girl in the past, but the relationship ended because the girl
did not feel ready to continue.  Mr. ___ denied any legal
problems and denied having access to any guns.  

 
Family History:
Family history remarkable for father with alcohol problems (in
remission) and mother with h/o hypothyroidism.  No other family
medical or psychiatric problems known by patient.

 
Physical Exam:
MSE- Mr. ___ is a
___ white male, dressed in hospital ___.  Appears
anxious, had a panic attack during the interview.  Speech normal
rate, tone & volume.  Normal language.  Mood is "depressed" with
a constricted affective range in anxious realm.  Thoughts
organized, but themes of guilt.  Endorsed suicidal ideation with
plan to commit suicide using a knife to cut himself, vacillating
intent.  Denied thoughts of harming others.  Insight into need
for help is good, judgment fair.

 
Pertinent Results:
___ 03:58PM   GLUCOSE-96 UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-29 ANION GAP-12
___ 03:58PM   estGFR-Using this
___ 03:58PM   TSH-1.4
___ 03:58PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:58PM URINE  HOURS-RANDOM
___ 03:58PM URINE  HOURS-RANDOM
___ 03:58PM URINE  GR HOLD-HOLD
___ 03:58PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 03:58PM   WBC-7.6 RBC-5.09 HGB-14.5 HCT-42.6 MCV-84 
MCH-28.5 MCHC-34.0 RDW-12.7
___ 03:58PM   NEUTS-55.6 ___ MONOS-3.7 EOS-1.4 
BASOS-0.5
___ 03:58PM   PLT COUNT-287
___ 03:58PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
1) Psychiatric:
Pt arrived on floor denying passive abd active SI, intent, plan 
but admitted to still feeling depressed, anxious. he was eager 
to start treatment and meds. Consequently, celexa 10 mg and 
klonopin 0.5 QHS and 0.5 BID prns anxiety were started. No side 
effects, pt reported significant anxiety reduction and 
resolution of depressive symptoms (slept throughout the night) 
and all SI/SIB urges within days of arrival. He stated he 
realized he had overreacted in his dealings with the teacher and 
wanted to be discharged so that he could return to school. 
However, in speaking with ___ (counselor at ___) 
___ and the Academic ___ @___, ___ 
___, both expressed concerns over pt's "repeated
acts of impulsivity (apparently in ___ he got in a fight 
with another student who he thought was talking about him. He 
then ran back to his roomatte's dorm and asked the roommate to 
kill hm by cutting his throat). They both stated the pt had 
"burned a lot more bridges" than just the one teacher he had a 
falling out
with, that other teachers at ___ are still "unwilling or 
concerned to take him on as a student given his growing 
reputation as impulsive". They stated the NEC may
recommend pt take the rest of the semester off on medical leave. 


We had a meeting with team, the academic ___ of ___, and the 
patient where all parties agreed that the pt should take the 
rest of the semester off on medical leave of absence with the 
possibility of returning next year. The patient stated, after 
speaking with his family, that he would return to ___ 
___ immediately to be close to his family, "for extra support" 
during his time of medical leave. he strongly agreed that he 
needed to continue taking his medications and would followup 
with psychiatric care arranged in ___ for him. The school 
was satisfied with his mental status at this joint meeting and 
felt he was safe to be discharged. Pt continued to deny 
depression, SI, SIB, was future oriented and goal oriented and 
was deemed safe for discharge on ___.

2) Medical:
No active issues during hospital stay.

3) Groups/Behavioral:
Pt attended groups, remained visible and  calm in unit milieu.  
no disruptive or threatening behavior.  no quiet room, 1:1 
sitter, physical or chemical restraints needed at any time.

4) Legal:
___
Medications on Admission:
none
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QAM and QHS.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:
Major depressive disorder, severe, without psychotic features
Anxiety disorder not otherwise specified
II- deferred
III- status post meniscus repair (knee)
IV- moderately severe psychosocial stressors identified
V- GAF upon discharge: 45

 
Discharge Condition:
MSE:general- thin caucasian man,seated, NAD
behavior= calm, no tremors, no PMA
speech- normal, not pressured 
affect:  more emotionally reactive than
prior, smiles appropriately, even and euthymic
TC: no delusions, no AVH
TP: linear and goal-directed;
safety- denies SI, SIB, intent, plan 
cog: AOx3
I/J; fair/fair

 
Discharge Instructions:
Please take medications as prescribed.
Please attend outpatient appointments as scheduled.
If you are feeling unsafe or that your condition is worsening, 
call ___ or go to your nearest ED

 
Followup Instructions:
___